US08975417B2
Step 36.1: ethyl 1-isopropyl-1H-pyrazole-5-carboxylate
The title compound was prepared in analogy to the procedure described in Step 17.3 using isopropylhydrazine hydrochloride and ethyl 4-(dimethylamino)-2-oxobut-3-enoate at 120° C. for hr. The crude product was purified by silica gel column chromatography (hexane/EtOAc 2.5-40%). tR: 4.74 min (HPLC 1); tR: 1.00 min (LC-MS 2); ESI-MS: 183 [M+H]+ (LC-MS 2); Rf=0.95 (hexane/EtOAc 1:1).

reactant | isopropylhydrazine hydrochloride | Cl.C(C)(C)NN
reactant | ethyl 4-(dimethylamino)-2-oxobut-3-enoate | CN(C=CC(C(=O)OCC)=O)C | C8H13NO3
product | ethyl 1-isopropyl-1H-pyrazole-5-carboxylate | C(C)(C)N1N=CC=C1C(=O)OCC | C9H14N2O2
